US04162246
Bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}methane (Compound No. 179)
A mixture of 12 g of 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 7 g of bis[p-(2,3-epoxypropoxy)phenyl]methane and 0.1 g (a catalytic amount) of potassium hydroxide was refluxed for 7 hours in 50 ml of methanol. After completion of the reaction, the methanol was evaporated under reduced pressure from the reaction mixture and the residue was dissolved in chloroform. The solution was then washed successively with a 5% w/w aqueous solution of potassium hydroxide and water and dried over anhydrous magnesium sulphate. The solvent was evaporated off under reduced pressure, leaving a residue which was recrystallised from a mixture of benzene and methanol. The desired Compound No. 179 was obtained in the form of white crystals, melting point 113°-118° C. The compound had an Rf value of 0.42 on thin-layer chromatography on silica gel using a 8:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine as developing solvent.

reactant | 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 12 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1)(C)C)C | C11H19N3O2
reactant | bis[p-(2,3-epoxypropoxy)phenyl]methane | 7 g | O1C(COC2=CC=C(C=C2)CC2=CC=C(C=C2)OCC2CO2)C1 | C19H20O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | Bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}methane | OC(COC1=CC=C(C=C1)CC1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(NC(C1)(C)C)(C)C)=O | C41H58N6O8
